US04334089
Using the method described by Papa et al. [J. Amer.Chem.Soc. 69 (1947), 3018], 12.3 g of azelaic acid ethyl ester chloride in 20 ml of chlorobenzene are mixed cold with 9.5 g of aluminium trichloride and the mixture is then heated at 150° overnight. After adding dilute hydrochloric acid to the complex, the organic phase is washed and concentrated; the residue is extracted with diethyl ether. After column chromatography, and concentration of the solution, 8.3 g of 9-(4-chlorophenyl)-9-oxo-nonanoic acid ethyl ester are obtained as a viscous oil.

reactant | azelaic acid ethyl ester chloride | 12.3 g | [Cl-].C(C)OC(CCCCCCCC(=O)O)=O
reactant | aluminium trichloride | 9.5 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | hydrochloric acid | Cl | ClH
reactant | chlorobenzene | 20 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 9-(4-chlorophenyl)-9-oxo-nonanoic acid ethyl ester | 8.3 g | C(C)OC(CCCCCCCC(=O)C1=CC=C(C=C1)Cl)=O | C17H23ClO3
